US06545003B1
2-(Cyclohexylcarbonylamino)benzamide was stirred for 16 h in a mixture of excess 1M NaOH and EtOH, and the resulting solution was treated with HCl to pH=7 causing the formation of a precipitate. The precipitate was collected by filtration, washed (with water and hexane), and dried under vacuum to give a nearly quantitative yield of 2-cyclohexyl-4-hydroxyquinazoline as a white solid, which was used immediately in the next step.

reactant | 2-(Cyclohexylcarbonylamino)benzamide | C1(CCCCC1)C(=O)NC1=C(C(=O)N)C=CC=C1 | C14H18N2O2
reactant | NaOH | 1M | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | EtOH | CCO | C2H6O
product | 2-cyclohexyl-4-hydroxyquinazoline | quantitative yield | C1(CCCCC1)C1=NC2=CC=CC=C2C(=N1)O | C14H16N2O
